US04545936
Reaction of 9-acetyl-6,9-dihydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione (690 mg) with pyrrolidone hydrotribromide (1.15 g) was effected in tetrahydrofuran (70 ml) at room temperature for 40 hours. After removing insoluble matters by filtration, the solvent was distilled off under reduced pressure to give yellow crystals (785 mg, 92%) of 9-bromoacetyl-6,9-dihydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione. M.P., 179°-180° C.

reactant | 9-acetyl-6,9-dihydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione | 690 mg | C(C)(=O)C1(CCC=2C(=C3C(C=4C=CC=CC4C(C3=CC2C1)=O)=O)O)O | C20H16O5
reactant | pyrrolidone hydrotribromide | 1.15 g | C1CC(=O)NC1.Br[Br-]Br
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 9-bromoacetyl-6,9-dihydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione | 785 mg, 92% | BrCC(=O)C1(CCC=2C(=C3C(C=4C=CC=CC4C(C3=CC2C1)=O)=O)O)O | C20H15BrO5
